US07858647B2
3.0 g phenethylamine, 5.0 g 5-chloro-2-methoxy-benzoic acid, and 2.72 ml triethylamine were dissolved in 100 ml dimethylformamide. 8.80 g O-((Ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate were added portionwise. The reaction mixture is stirred at room temperature for three hours. 300 ml ethyl acetate were added and the mixture was washed three times with portions of 50 ml saturated NaHCO3 solution and brine. The organic phase was dried over MgSO4 and then the solvent was removed in vacuo to obtain 6.5 g 5-Chloro-2-methoxy-N-phenethyl-benzamide.

reactant | phenethylamine | 3.0 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | 5-chloro-2-methoxy-benzoic acid | 5.0 g | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
reactant | triethylamine | 2.72 ml | C(C)N(CC)CC | C6H15N
reactant | O-((Ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 8.80 g | F[B-](F)(F)F.C(C)OC(=O)C(C#N)=NOC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-methoxy-N-phenethyl-benzamide | 6.5 g | ClC=1C=CC(=C(C(=O)NCCC2=CC=CC=C2)C1)OC | C16H16ClNO2
